US07691892B2
a) 2-(3-chloro-phenyl)-5-[(triphenyl-λ5-phosphanyl)-methyl]-2H-tetrazole hydrobromide
Triphenylphosphine (89.4 mg, 0.341 mmol) was added to 5-bromomethyl-2-(3-chloro-phenyl)-2H-tetrazole (93.2 mg, 0.341 mmol) in toluene (5 mL). The reaction was heated at 80° C. under Argon for 4.5 hours. The reaction was cooled and concentrated to yield the title compound as a white solid (165.1 mg, 90%). 1H NMR CDCl3 δ (ppm): 7.96 (m, 6H), 7.80 (m, 4H), 7.70 (m, 6H), 7.44 (d, 2H), 7.28 (s, 1H), 6.17 (d, 2H).

reactant | Triphenylphosphine | 0.341 mmol, 89.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-bromomethyl-2-(3-chloro-phenyl)-2H-tetrazole | 0.341 mmol, 93.2 mg | BrCC=1N=NN(N1)C1=CC(=CC=C1)Cl | C8H6BrClN4
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-chloro-phenyl)-5-[(triphenyl-λ5-phosphanyl)-methyl]-2H-tetrazole hydrobromide | 165.1 mg, 90% | Br.ClC=1C=C(C=CC1)N1N=C(N=N1)CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H22ClN4P.BrH/c27-21-11-10-12-22(19-21)31-29-26(28-30-31)20-32(23-13-4-1-5-14-23,24-15-6-2-7-16-24)25-17-8-3-9-18-25;/h1-19,32H,20H2;1H
